US04711884
(±)-3-Amino-3,4-dihydro-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester is reacted with ethyl-2-oxo-4-phenylbutyrate in the presence of sodium cyanoborohydride according to the procedure of Example 1(f) to yield (±)-dihydro-3-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester.

reactant | (±)-3-Amino-3,4-dihydro-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester | NC1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2 | C13H16N2O3S
reactant | ethyl-2-oxo-4-phenylbutyrate | C(C)OC(C(CCC1=CC=CC=C1)=O)=O | C12H14O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | (±)-dihydro-3-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]-4-oxo-1,5-benzothiazepine-5(2H)-acetic acid, ethyl ester | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1CSC=2C(N(C1=O)CC(=O)OCC)CC=CC2 | C25H32N2O5S
